US05032598
To a solution of 7-amino-1-tetralone in 30 ml CH2Cl2 was added 1.03 g (0.013 mole) pyridine and 1.33 g (0.0116 mole) methanesulfonyl chloride. The solution was stirred at room temperature for 3 hours, saturated NaHCO3 solution was added. The CH2Cl2 solution was separated and washed with H2O. The resulting solution was dried over Na2SO4 (anhydrous), filtered, concentrated in vacuo and recrystallized from abs. ethanol to give 1.45 g (58% yield) of 7-methanesulfonamido-1-tetralone.

reactant | 7-amino-1-tetralone | NC1=CC=C2CCCC(C2=C1)=O | C10H11NO
reactant | pyridine | 0.013 mole, 1.03 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.0116 mole, 1.33 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 7-methanesulfonamido-1-tetralone | 1.45 g, 58% yield | CS(=O)(=O)NC1=CC=C2CCCC(C2=C1)=O | C11H13NO3S
